US05656629
Sodium (1.19 g) was dissolved in ethanol (85 mL) and 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (5.7 g, 26 mmol) and then ethyl 3-methoxyphenylacetate (10 g) were added. The reaction mixture was refluxed overnight, cooled to room temperature and the solvent was stripped. Water was added to the residue, followed by 2N HCl and the precipitate which formed was collected by filtration and recrystallized from ethyl acetate to afford 5.08 g of 1-cyclopentyl-3-ethyl-6-(3-methoxyphenylmethyl)pyrazolo[3,4-d]pyrimidin-4-one, m.p. 148°-150° C.

reactant | Sodium | 1.19 g | [Na] | Na
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 26 mmol, 5.7 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | ethyl 3-methoxyphenylacetate | 10 g | COC=1C=C(C=CC1)CC(=O)OCC | C11H14O3
reactant | HCl | 2N | Cl | ClH
solvent | ethanol | 85 mL | C(C)O | C2H6O
solvent | Water | O | H2O
product | 1-cyclopentyl-3-ethyl-6-(3-methoxyphenylmethyl)pyrazolo[3,4-d]pyrimidin-4-one | 5.08 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)CC2=CC(=CC=C2)OC)CC | C20H24N4O2
